US04897490
5,5-Bis(4-fluorophenyl)-4-(1-ethyl-1H-tetrazol-5-yl)-2,4-pentadienal
A solution of 3,3-bis(4-fluorophenyl)-2-(1-ethyl-1H-tetrazol-5-yl)-2-propenal (0.65 g, 1.9 mmoles) and 0.64 g (2.1 mmoles) of triphenylphosphoranylidene acetaldehyde in benzene was heated at reflux temperature for 2 hours. The solution was concentrated in vacuo and the residue purified by silica gel column chromatography eluting with CH2Cl2 to give 0.55 g (79.7%) of the title compound, m.p.=163°-165° C.

reactant | 3,3-bis(4-fluorophenyl)-2-(1-ethyl-1H-tetrazol-5-yl)-2-propenal | 1.9 mmoles, 0.65 g | FC1=CC=C(C=C1)C(=C(C=O)C1=NN=NN1CC)C1=CC=C(C=C1)F | C18H14F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 2.1 mmoles, 0.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(4-fluorophenyl)-4-(1-ethyl-1H-tetrazol-5-yl)-2,4-pentadienal | 0.55 g, 79.7% | FC1=CC=C(C=C1)C(=C(C=CC=O)C1=NN=NN1CC)C1=CC=C(C=C1)F | C20H16F2N4O
